US06297266B1
2-Guanidino-4-methyl-thiazole-5-carboxylic acid is reacted with tert-butyl (3-amino-phenoxy)-acetate in the same manner as in Example 3. Chromatography on silica gel with methylene chloride-ethyl acetate and methylene chloride-alcohol gives 176 mg of tert-butyl {3-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate, m.p. 204° C., MS: 406 (M+H)+.

reactant | 2-Guanidino-4-methyl-thiazole-5-carboxylic acid | N(C(=N)N)C=1SC(=C(N1)C)C(=O)O | C6H8N4O2S
reactant | tert-butyl (3-amino-phenoxy)-acetate | NC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C12H17NO3
solvent | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | tert-butyl {3-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate | 176 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)NC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C18H23N5O4S
